US06436964B1
Preparation of 1-Cyclohexyl-2-phenylpropanol
To a solution of cyclohexylmagnesium chloride (50 mmol) in 25 mL of Et2O and 40 mL of THF at −5° C. was added a solution of 2-phenylpropanaldehyde (5.36 g, 40 mmol) in 10 mL of THF. The reaction mixture exothermed to 5° C. After stirring at room temperature for 75 min, the solution was poured onto ice cold 1 N HCl, extracted with toluene, dried over MgSO4, and concentrated to give the title compound as a colorless oil (6.15 g, 70%): 1H NMR (d6-DMSO): δ 7.23-7.30 (m, 2H, phenyl CH), 7.15-7.22 (m, 3H, phenyl CH), 4.17-4.51 (brs, 1H, —OH), 3.23-3.33 (m, 1H, R2CHOH), 2.78 (dq, J=7.0 Hz, J=7.1 Hz, 1H, —CH(CH3)Ph), 1.23-1.83 (m, 6H, cyclohexyl CH), 1.20 (d, J=6.9 Hz, 3H, —CH(CH3)Ph), 0.88-1.18 (m, 5H, cyclohexyl CH).

reactant | cyclohexylmagnesium chloride | 50 mmol | C1(CCCCC1)[Mg]Cl
reactant | 2-phenylpropanaldehyde | 40 mmol, 5.36 g | C1(=CC=CC=C1)C(C=O)C | C9H10O
solvent | Et2O | 25 mL | CCOCC | C4H10O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Cyclohexyl-2-phenylpropanol | 6.15 g, 70% | C1(CCCCC1)C(C(C)C1=CC=CC=C1)O | C15H22O
